US06924276B2
[2-(1H-Indol-3-yl)-2-oxo-ethyl]-carbamic Acid 3-(3-methyl-but-2-enylcarbamoyl)-2-oxo-2,3-dihydro-thiazol-5-yl Ester
To a stirred solution of 3-(3-methyl-but-2-en-1-yl)aminocarbonyl-2,4-thiazolidinedione (0.01 mol), which may be prepared as described in Step (a) above, in a solvent such as, for example, THF is added 1 mol equivalent of a non-nucleophilic base such as described in Step (f) above, preferably sodium hydride, and the mixture is stirred for from 1 minute to about 1 hour. To the mixture is added a solution of 2-(1-tert-butoxycarbonyl-indol-3-yl)-2-oxo-ethylisocyanate (0.01 mol), which may be prepared as described in Step (f) above, in a solvent such as, for example, THF. Reaction progress may be followed by TLC or HPLC. When a sufficient amount of desired product is formed, the mixture is partitioned between ethyl acetate and water, or optionally the mixture is first rotary evaporated, and the residue is so partitioned. The organic layer is washed with 0.01 M hydrochloric acid, water, brine, and dried over sodium sulfate. The mixture is rotary evaporated to give 2-[1-(tert-butoxycarbonyl)-indol-3-yl)-2-oxo-ethyl]carbamic acid, [3-(3-methyl-but-2-en-1-yl)aminocarbonyl-2,3-dihydrothiazol-2-on-5-yl] ester, which may be purified, if needed or desired, by chromatography on silica gel or crystallization.

reactant | 3-(3-methyl-but-2-en-1-yl)aminocarbonyl-2,4-thiazolidinedione | 0.01 mol | CC(=CCNC(=O)N1C(SCC1=O)=O)C | C9H12N2O3S
reactant | sodium hydride | [H-].[Na+]
reactant | 2-(1-tert-butoxycarbonyl-indol-3-yl)-2-oxo-ethylisocyanate | 0.01 mol | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C(CN=C=O)=O | C16H16N2O4
reactant | THF | C1CCOC1 | C4H8O
product | [2-(1H-Indol-3-yl)-2-oxo-ethyl]-carbamic Acid 3-(3-methyl-but-2-enylcarbamoyl)-2-oxo-2,3-dihydro-thiazol-5-yl Ester | CC(=CCNC(=O)N1C(SC(=C1)OC(NCC(=O)C1=CNC2=CC=CC=C12)=O)=O)C | C20H20N4O5S
